US08912188B2
To a solution of methyl 3-(benzyl(methyl)amino)-2-(trifluoromethylsulfonyloxy)quinoxaline-6-carboxylate (300 mg, crude) in ethylene glycol dimethyl ether (7 mL) was added tert-butyl 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indazole-1-carboxylate (181 mg, 0.53 mmol), sodium carbonate (93 mg, 0.88 mmol), and Pd(PPh3)4 (25 mg, 0.02 mmol). The resulting solution was stirred for 1 h at 90° C. under an inert atmosphere of nitrogen, quenched with water (100 mL) and extracted with dichloromethane (3×50 mL), dried over anhydrous magnesium sulfate, and concentrated under vacuum to give a residue, which was purified via silica gel chromatography (3% ethyl acetate in petroleum ether) to afford methyl 3-(benzyl(methyl)amino)-2-(1-(tert-butoxycarbonyl)-1H-indazol-5-yl)quinoxaline-6-carboxylate as a yellow solid (120 mg).

reactant | methyl 3-(benzyl(methyl)amino)-2-(trifluoromethylsulfonyloxy)quinoxaline-6-carboxylate | 300 mg | C(C1=CC=CC=C1)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)OS(=O)(=O)C(F)(F)F)C | C19H16F3N3O5S
reactant | tert-butyl 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indazole-1-carboxylate | 0.53 mmol, 181 mg | CC1(OB(OC1(C)C)C=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C)C | C18H25BN2O4
reactant | sodium carbonate | 0.88 mmol, 93 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 7 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 0.02 mmol, 25 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 3-(benzyl(methyl)amino)-2-(1-(tert-butoxycarbonyl)-1H-indazol-5-yl)quinoxaline-6-carboxylate | 120 mg | C(C1=CC=CC=C1)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C)C | C30H29N5O4
